US09403831B2
(R)-tert-butyl 2-(aminomethyl)morpholine-4-carboxylate
(S)-tert-butyl 2-(azidomethyl)morpholine-4-carboxylate (31 g, 127.95 mmol) was dissolved in MeOH (400 ml), and Pd/C (5%, 6 g) was added, followed by stirring under H2 (gas) for 1 hour. After the completion of the reaction, the reaction mixture was filtered through celite, followed by drying, and then the next reaction was advanced.

reactant | (S)-tert-butyl 2-(azidomethyl)morpholine-4-carboxylate | 127.95 mmol, 31 g | N(=[N+]=[N-])C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C10H18N4O3
solvent | MeOH | 400 ml | CO | CH4O
catalyst | Pd/C | 6 g | [Pd] | Pd
product | (R)-tert-butyl 2-(aminomethyl)morpholine-4-carboxylate | NC[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C10H20N2O3
